US04851160
3-Bromo-2,4-dichloro-5-fluoro-benzoyl chloride
58.3 g (0.2 mol) of 3-bromo-2,4-dichloro-5-fluorobenzoic acid are refluxed for 4 hours in 350 ml of thionyl chloride until the gas evolution ceases. Excess thionyl chloride is removed by distillation, and the residue is fractionated.

reactant | 3-bromo-2,4-dichloro-5-fluorobenzoic acid | 0.2 mol, 58.3 g | BrC=1C(=C(C(=O)O)C=C(C1Cl)F)Cl | C7H2BrCl2FO2
reactant | thionyl chloride | 350 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-Bromo-2,4-dichloro-5-fluoro-benzoyl chloride | BrC=1C(=C(C(=O)Cl)C=C(C1Cl)F)Cl | C7HBrCl3FO
